US06559091B1
A solution of 1-Amino-2-naphthalen-1-yl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (434 mg, 1.22 mmol) in toluene (7.2 mL) was treated with 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one (308 mg, 1.02 mmol) and p-toluene sulfonic acid (8 mg). A Dean Stark trap was attached, and the resulting solution heated to reflux under Ar with the azeotropic removal of water for 18 h, then another portion of p-toluene sulfonic acid (8 mg) was added and the azeotropic removal of water was continued for an additional 75 min. The solution was cooled to rt and concentrated in vacuo. The residue was dissolved in THF/Acetic acid (10/1) and treated with PS-TsNHNH2 resin (Argonaut Technologies, 1.039 g, 2.6 mmol). The suspension was stirred under Ar overnight, then filtered through a polyethylene frit, and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, 50-100% CH2Cl2/heptane) to afford 1-[2-(2,5-Diphenyl-pyrrol-1-ylimino)-1-methyl-propylideneamino]-2-naphthalen-1-yl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester a66 (240 mg, 37%): 11H NMR (DMSO, chemical shifts relative to TMS, 80° C.): 0.82 (t, 3H, J=7.3 Hz), 1.08 (s, 3H), 1.74 (s, 3H), 3.91 (q, 2H, J=6.9 Hz), 6.42 (s, 2H), 7.03 (s, 1H), 7.11 (d, 4H, J=7.18 (t, 4H, J=7.3 Hz), 7.22-7.25 (m, 2H), 7.32-7.37 (m, 5H), 7.39-7.41 (m, 2H), 7.44-7.47 (m, 2H), 7.53 (d, 1H, J=8.2 Hz), 7.93 (t, 2H, J=8.7 Hz).

reactant | 1-Amino-2-naphthalen-1-yl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.22 mmol, 434 mg | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)N)C1=CC=CC2=CC=CC=C12 | C23H20N2O2
reactant | 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one | 1.02 mmol, 308 mg | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)N=C(C(C)=O)C | C20H18N2O
reactant | p-toluene sulfonic acid | 8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluene sulfonic acid | 8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | TsNHNH2 | 2.6 mmol, 1.039 g | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
solvent | toluene | 7.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-[2-(2,5-Diphenyl-pyrrol-1-ylimino)-1-methyl-propylideneamino]-2-naphthalen-1-yl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)N=C(C(C)=NN1C(=CC=C1C1=CC=CC=C1)C1=CC=CC=C1)C)C1=CC=CC2=CC=CC=C12 | C43H36N4O2
